US04621089
A solution of ethyl 7chloro-1H-pyrazolo[4,3-b]-pyridine-5-carboxylate (1.5 g, 6.65 mmol) in allylamine (25 ml) was heated under reflux for 3 days. The solvent was evaporated in vacuo and the residue was extracted into warm ether to give 7-chloro-1H-pyrazolo[4,3-b]pyridine-5-carboxylic acid allyl amide as a pale yellow solid, m.p. 121°-125° C. Without further purification, this material was dissolved in allylamine (10 ml) and water (10 ml) and heated under reflux for 6 days. Excess allylamine was removed in vacuo and the precipitated solid was collected and washed well with water, to give the crude product (940 mg, 55%). Recrystallisation from ethyl acetate gave the title compound, m.p. 194°-197° C.

reactant | ethyl 7chloro-1H-pyrazolo[4,3-b]-pyridine-5-carboxylate | 6.65 mmol, 1.5 g | ClC1=C2C(=NC(=C1)C(=O)OCC)C=NN2 | C9H8ClN3O2
solvent | allylamine | 25 ml | C(C=C)N | C3H7N
product | 7-chloro-1H-pyrazolo[4,3-b]pyridine-5-carboxylic acid allyl amide | C(C=C)NC(=O)C1=CC(=C2C(=N1)C=NN2)Cl | C10H9ClN4O
